US07109216B2
Part A: To a stirred solution of 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid (18.38 gram, 50 mmol) in toluene (200 mL) in a nitrogen atmosphere is added N,N-dimethylformamide di-tert-butyl acetal (50 mL) and the resulting mixture is heated at 80° C. for 4 hours. After cooling to room temperature the reaction mixture is concentrated and diethyl ether is added. The resulting solution is twice washed with water, dried over MgSO4, filtered and concentrated in vacuo. The residue is crystallised from diisopropyl ether to give pure tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate (10.35 gram, 49% yield). Melting point: 179–181° C.

reactant | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid | 50 mmol, 18.38 gram | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H9Cl3N2O2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 50 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate | 10.35 gram, 49% yield | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C20H17Cl3N2O2
